US09315527B2
Under a dry nitrogen atmosphere, n-BuLi (10.6 mL, 1.6 M) in hexanes was added drop-wise to a cooled (−60° C.) solution of 1-bromopyrene (5.01 g, 0.018 mol) in THF/Et2O (1:1) (80 mL) and stirred for 2 hours at −60° C. The solution was cooled to −90° C. and a THF solution of SiCl4 (8.66 g, 0.051 mol) (10 mL) was added slowly and stirred for 24 hours at room temperature. The reaction mixture was evaporated to dryness, washed in Et2O (100 mL), and filtered to remove any unreacted 1-bromopyrene and LiBr. The filtrate was collected and evaporated to dryness to give a 48% yield of 1-trichlorosilylpyrene, a yellow powder. 1HNMR (CDCl3, ppm) 8.66 (d, J=9.3 Hz, 1H), 8.59 (d, J=8.1 Hz, 1H), 8.30 (m, 5H), 8.11 (m, 2H). 13C {1H}NMR (CDCl3, ppm) 136.18 (C), 135.85 (C), 133.13 (CH), 132.06 (C), 131.30 (C), 131.22 CH), 130.31 (CH), 127.96 (CH), 127.67 (CH), 127.61 (CH), 126.65 (CH), 125.61 (C), 125.01 (CH), and 124.39 (C). 29Si{1H} (CDCl3, ppm) −1.64 (s).

reactant | n-BuLi | 1.6 M, 10.6 mL | [Li]CCCC
reactant | 1-bromopyrene | 0.018 mol, 5.01 g | BrC1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C16H9Br
reactant | THF | C1CCOC1 | C4H8O
reactant | SiCl4 | 0.051 mol, 10 mL, 8.66 g | [Si](Cl)(Cl)(Cl)Cl | Cl4Si
solvent | THF Et2O | 80 mL | C1CCOC1.CCOCC
product | 1-trichlorosilylpyrene | 48% yield | Cl[Si](C1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34)(Cl)Cl | C16H9Cl3Si
